US07884207B2
Under a nitrogen atmosphere, hydrazine (0.89 mL, 28 mmol) was added to a suspension of 2-({4-amino-1-[(1-hydroxycyclobutyl)methyl]-1H-imidazo[4,5-c]quinolin-2-yl}methyl)-1H-isoindole-1,3(2H)-dione (2.42 g, 5.66 mmol) in ethanol (57 mL), and the reaction was stirred for two hours at room temperature. The ethanol was removed under reduced pressure, and the resulting white solid was triturated with 2 N hydrochloric acid. The resulting suspension was filtered to remove a solid, and the filter cake was washed with water. The filtrate was made basic with the addition of solid sodium bicarbonate. A precipitate formed and was isolated by filtration, washed with water, and dried at 50° C. for three days in a vacuum oven to provide 0.994 g of 1-{[4-amino-2-(aminomethyl)-1H-imidazo[4,5-c]quinolin-1-yl]methyl}cyclobutanol as a yellow solid.

reactant | hydrazine | 28 mmol, 0.89 mL | NN | H4N2
reactant | 2-({4-amino-1-[(1-hydroxycyclobutyl)methyl]-1H-imidazo[4,5-c]quinolin-2-yl}methyl)-1H-isoindole-1,3(2H)-dione | 5.66 mmol, 2.42 g | NC1=NC=2C=CC=CC2C2=C1N=C(N2CC2(CCC2)O)CN2C(C1=CC=CC=C1C2=O)=O | C24H21N5O3
solvent | ethanol | 57 mL | C(C)O | C2H6O
product | 1-{[4-amino-2-(aminomethyl)-1H-imidazo[4,5-c]quinolin-1-yl]methyl}cyclobutanol | 0.994 g | NC1=NC=2C=CC=CC2C2=C1N=C(N2CC2(CCC2)O)CN | C16H19N5O
